US09227973B2
Step B: Methyl 2-(2-(2-bromopyridin-3-yl)-1-phenylethoxy)acetate
A solution of 2-(2-bromopyridin-3-yl)-1-phenylethanol (2.5 g, 9.0 mmol) in anhydrous DMF (10 mL) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil, 0.54 g, 13 mmol) in anhydrous DMF (10 mL) at 0° C., and the resulting mixture was stirred for 30 min. Methyl bromoacetate (1.03 mL, 10.7 mmol) was added, and the contents were warmed to 23° C. and stirred for 30 min, then partitioned between ethyl acetate and water (2×). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 20% ethyl acetate in petroleum ether to give the title compound. MS: m/z=352.0 (M+1).

reactant | 2-(2-bromopyridin-3-yl)-1-phenylethanol | 9.0 mmol, 2.5 g | BrC1=NC=CC=C1CC(O)C1=CC=CC=C1 | C13H12BrNO
reactant | sodium hydride | 13 mmol, 0.54 g | [H-].[Na+]
reactant | Methyl bromoacetate | 10.7 mmol, 1.03 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(2-(2-bromopyridin-3-yl)-1-phenylethoxy)acetate | BrC1=NC=CC=C1CC(OCC(=O)OC)C1=CC=CC=C1 | C16H16BrNO3
